US06348474B1
Methyl 3-(2-chloro-4-(3-phenylureido)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (275 mg) was suspended in toluene (10 ml), and phenyl isocyanate (218 mg) was added at room temperature. The mixture was refluxed under heating for 5 hr and concentrated under reduced pressure. Hexane (20 ml) was added, and the mixture was heated and allowed to cool. The precipitated crystals were collected by filtration. The crystals were suspended in ethyl acetate (10 ml), heated and allowed to cool. The precipitated crystals were collected by filtration and dried under reduced pressure and by heating to give the objective compound (328 mg) as colorless crystals.

reactant | Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 275 mg | NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C16H15ClN4O2
reactant | phenyl isocyanate | 218 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(2-chloro-4-(3-phenylureido)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 328 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)NC(=O)NC1=CC=CC=C1 | C23H20ClN5O3
